US07846959B2
6-{2-[(4-Chlorophenyl)methyl]-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl}-2H-1,4-benzoxazin-3(4H)-one:
To a solution of 2-[(3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-yl)carbonylbenzoic acid (50 mg, 0.17 mmol) in N,N-dimethylformamide (1.00 mL) was added N-methylmorpholine (74 uL, 0.67 mmol) followed by addition of HOAt (55 mg, 0.40 mmol) and HATU (130 mg, 0.34 mmol). The mixture was stirred for 30 minutes at room temperature followed by the addition of 4-chloro-benzylamine (49 uL, 0.40 mmol). The reaction mixture was then heated to 60° C. for 2 h. The mixture was cooled to room temperature and the solvent was evaporated. The residue was dissolved in ethyl acetate and the organic layer was washed with brine, 1.0 M aq. hydrochloric acid, brine, saturated aq. sodium-hydrogencarbonate and brine. The organic layer was separated, dried over anhydrous sodium sulfate, filtered and the filtrate concentrated in vacuo. The residue was recrystallized from methanol to afford the title compound (7.3 mg, 15%). MS (EI) for C22H15ClN2O4: 443 (MNa+).

reactant | (3-oxo-3,4-dihydro-2H-1,4-benzoxazine-6-yl)carbonylbenzoic acid | 0.17 mmol, 50 mg | O=C1COC2=C(N1)C=C(C=C2)C(=O)C2=C(C(=O)O)C=CC=C2 | C16H11NO5
reactant | N-methylmorpholine | 0.67 mmol, 74 uL | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.40 mmol, 55 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 0.34 mmol, 130 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-chloro-benzylamine | 0.40 mmol, 49 uL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | N,N-dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
product | 6-{2-[(4-Chlorophenyl)methyl]-1-hydroxy-3-oxo-2,3-dihydro-1H-isoindol-1-yl}-2H-1,4-benzoxazin-3(4H)-one | 7.3 mg, 15% | ClC1=CC=C(C=C1)CN1C(C2=CC=CC=C2C1=O)(O)C=1C=CC2=C(NC(CO2)=O)C1 | C23H17ClN2O4
